US09340538B2
Step C: Ethyl 4-(2-bromo-4-fluorophenyl)-2-(4-(2-methoxy-2-oxoethyl)thiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate
Methyl 2-(2-carbamimidoylthiazol-4-yl)acetate hydrochloride (2.35 g, 10 mmol) was reacted with 2-bromo-4-fluorobenzaldehyde (2.03 g, 10 mmol) and ethyl 3-oxobutanoate (1.56 g, 12 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (2.48 g, 50%). The compound was characterized by the following spectroscopic data:

reactant | Methyl 2-(2-carbamimidoylthiazol-4-yl)acetate hydrochloride | 10 mmol, 2.35 g | Cl.C(N)(=N)C=1SC=C(N1)CC(=O)OC
reactant | 2-bromo-4-fluorobenzaldehyde | 10 mmol, 2.03 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | ethyl 3-oxobutanoate | 12 mmol, 1.56 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-2-(4-(2-methoxy-2-oxoethyl)thiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 2.48 g, 50% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=C(N1)CC(=O)OC | C20H19BrFN3O4S
